US08497278B2
1-(6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-1H-pyrimidine-2-thione (103)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and pyrimidine-2(1H)-thione. m/e+ 367 for C20H19N4S [M+H]+; 1H-NMR (300 MHz, CDCl3) δ 8.54 (d, J=4.8 Hz, 2H), 7.94 (d, J=4.8 Hz, 1H), 7.74 (m, 2H), 7.56 (d, J=9.0 Hz, 1H), 7.27 (dd, J=4.2, 7.8 Hz, 2H), 7.05 (m, 2H), 4.94 (s, 2H), 2.40 (s, 3H), 2.33 (s, 3H) ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | pyrimidine-2(1H)-thione | N1C(N=CC=C1)=S | C4H4N2S
product | 1-(6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-1H-pyrimidine-2-thione | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CN2C(N=CC=C2)=S | C20H18N4S
